US05066658
A mixture of 4-phenylbenzaldehyde (5.17 g, 28.4 mmol), malonic acid (4.0 g), pyridine (20 ml), and piperidine (0.5 ml) was heated until gas evolution began. Heating was continued until gas evolution ceased (about 30 minutes at 90°-100° C.). The mixture was cooled, and the solid product triturated with boiling methanol (150 ml) and enough concentrated HCl to make the mixture acidic. The mixture was cooled, and the product collected by filtration, washed with water and methanol, and dried in vacuo to provide 4-phenylcinnamic acid (4.85 g, 76% yield), mp 220°-225° C. This material was dissolved in ethanol (150 ml) containing concentrated sulfuric acid (0.5 ml) and triethyl orthoacetate (3.5 ml), and refluxed for 24 hours. Removal of the solvent and recrystallization of the residue from methanol-water provided the ethyl ester (5.0 g, 92% yield), mp 88°-89° C.

reactant | 4-phenylbenzaldehyde | 28.4 mmol, 5.17 g | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | malonic acid | 4.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-phenylcinnamic acid | 4.85 g, 76% yield | C1(=CC=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C15H12O2
